US04886794
5-(2-Chloroethyl)-3,4-dimethyl-2-oxazolidinone
To a chloroform solution containing 68.12 g (0.7 mole) of phosgene at 0°-10° C. was added 80 g (0.7 mole) of 1,2-dimethyl-3-pyrrolidinol at a rate to maintain the temperature below 10° C. The reaction mixture was allowed to stir at room temperature overnight. The mixture was cooled in an ice bath and 100 ml of triethylamine was added dropwise maintaining the temperature below 10° C. The mixture was extracted in order with water, 3N hydrochloric acid solution, 3N sodium hydroxide solution and again with water. The chloroform layer was dried over anhydrous sodium sulfate and evaporated to yield 110 g of dark amber oil which was distilled at 113°-118° C. at 0.05 mm to give 80 g (64.8%) of pale yellow oil, n22 =1.4796.

reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | phosgene | 0.7 mole, 68.12 g | C(=O)(Cl)Cl | CCl2O
reactant | 1,2-dimethyl-3-pyrrolidinol | 0.7 mole, 80 g | CN1C(C(CC1)O)C | C6H13NO
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
product | 5-(2-Chloroethyl)-3,4-dimethyl-2-oxazolidinone | 110 g | ClCCC1C(N(C(O1)=O)C)C | C7H12ClNO2
